US07538249B2
Synthesis of 6-methyl-4-phenyl-chroman-2-one
Cinnamic acid (100 gms) and p-cresol (76.6 gms) were charged to a clean and dry flask under nitrogen and stirred. Concentrated sulphuric acid was slowly charged and the reaction mixture heated to 125° C.-130° C. for 6 hours. After completion of reaction the mixture was cooled to about 60° C. and about 50 ml water and about 300 ml toluene were charged under stirring. The layers were separated. The toluene layer was washed with aqueous saturated solution of sodium bicarbonate and water. The organic layer was dried over sodium sulfate and concentrated under vacuum, at a temperature below 50° C. The residue was stripped with 2×100 ml IPA. The residue was dissolved in 200 ml isopropanol, chilled to 5° C. and stirred for 2 hours. The solids obtained were filtered and dried at about 60° C. for 4-5 hours to give about 135 to 137 gms of the title product.

reactant | Cinnamic acid | 100 gms | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | p-cresol | 76.6 gms | C1=CC(=CC=C1O)C | C7H8O
reactant | water | about 50 ml | O | H2O
solvent | toluene | about 300 ml | C1(=CC=CC=C1)C | C7H8
product | 6-methyl-4-phenyl-chroman-2-one | about 135 to 137 gms | CC=1C=C2C(CC(OC2=CC1)=O)C1=CC=CC=C1 | C16H14O2
